US09447106B2
A mixture of 5-amino-1-(3-bromopyridin-4-yl)-3-(4-phenoxyphenyl)-1H-pyrazole-4-carboxamide (3.96 g, 8.8 mmol), CuI (836 mg, 4.4 mmol), N1,N2-dimethylethane-1,2-diamine (77 mg, 0.88 mmol), K3PO4 (5.59 g, 26.4 mmol) in 100 mL of DMF was stirred at 100° C. under N2 for 2 hr, until TLC showed that most of starting material was consumed. After cooling down to RT, the mixture was filtered and concentrated. The residue was chromatographed on 30 g of silica gel using DCM/MeOH (20/1 to 10/1) as eluant to afford 3.2 g (99%) of 2-(4-Phenoxyphenyl)-4H-pyrazolo[1′,5′:1,2]imidazo[4,5-c]pyridine-3-carboxamide as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ 12.63 (br s, 1H), 8.85 (s, 1H), 8.46 (s, 1H), 7.96 (d, J=4.6 Hz, 1H), 7.81 (d, J=8.6 Hz, 2H), 7.45 (d, J=7.6 Hz, 1H), 7.43 (d, J=7.6 Hz, 1H), 7.20 (t, J=7.6 Hz, 1H), 7.14-7.09 (m, 4H). MS (ESI) m/e [M+1]+ 369.9.

reactant | 5-amino-1-(3-bromopyridin-4-yl)-3-(4-phenoxyphenyl)-1H-pyrazole-4-carboxamide | 8.8 mmol, 3.96 g | NC1=C(C(=NN1C1=C(C=NC=C1)Br)C1=CC=C(C=C1)OC1=CC=CC=C1)C(=O)N | C21H16BrN5O2
reactant | N1,N2-dimethylethane-1,2-diamine | 0.88 mmol, 77 mg | CNCCNC | C4H12N2
reactant | K3PO4 | 26.4 mmol, 5.59 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 4.4 mmol, 836 mg | [Cu]I
product | 2-(4-Phenoxyphenyl)-4H-pyrazolo[1′,5′:1,2]imidazo[4,5-c]pyridine-3-carboxamide | 3.2 g, 99% | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NN2C(NC=3C=NC=CC32)=C1C(=O)N | C21H15N5O2
